US07494996B2
1-(n-Butyl)-3-(3,5-dichlorophenyl)-4-(chloromethyloxycarbonyl)-4,5-dihydro-1,2,4-triazin-6-one was treated with sodium iodide in acetone as described in Folkmann, M.; Lund, F. J. Synthesis 1990, 1159 to give 1-(n-butyl)-3-(3,5-dichlorophenyl)-4-(iodomethyloxycarbonyl)-4,5-dihydro-1,2,4-triazin-6-one.

reactant | 1-(n-Butyl)-3-(3,5-dichlorophenyl)-4-(chloromethyloxycarbonyl)-4,5-dihydro-1,2,4-triazin-6-one | C(CCC)N1N=C(N(CC1=O)C(=O)OCCl)C1=CC(=CC(=C1)Cl)Cl | C15H16Cl3N3O3
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-(n-butyl)-3-(3,5-dichlorophenyl)-4-(iodomethyloxycarbonyl)-4,5-dihydro-1,2,4-triazin-6-one | C(CCC)N1N=C(N(CC1=O)C(=O)OCI)C1=CC(=CC(=C1)Cl)Cl | C15H16Cl2IN3O3
